US07635715B2
Step D: Preparation of Ethyl 4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate
Diethyl 2-(4-phenyl-tetrahydro-2H-pyran-4-carbonyl)malonate (418 mg, 1200 μmol) was dissolved in a minimal amount of EtOAc and then cooled to 0° C. A slurry of P2O5 (681 mg) and H2SO4 (640 μL, 11998 μmol) (also at 0° C.) was added to the mixture via spatula, and the reaction mixture was stirred for 3 hours. The reaction mixture was then poured into a beaker of ice, diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with water, washed with water (2×50 mL), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound which was used without further purification. MS m/e=303 (M+H)+.

reactant | Diethyl 2-(4-phenyl-tetrahydro-2H-pyran-4-carbonyl)malonate | 1200 μmol, 418 mg | C1(=CC=CC=C1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C19H24O6
reactant | P2O5 | 681 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | H2SO4 | 11998 μmol, 640 μL | OS(=O)(=O)O | H2O4S
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Ethyl 4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | OC1=C(C(C2(CCOCC2)C2=CC=CC=C12)=O)C(=O)OCC | C17H18O5
